US06417193B1
Methyl-N-(3-[2-Chloro-6-Fluorophenyl]-5-Methylisoxazol-4-oyl)-5-Aminopentanoate
Methyl-5-aminopentanoate hydrochloride (694 mg, 4.14 mmol) and 3-(2-chloro-6-fluorophenyl)-5-methylisoxazol-4-oyl chloride (1.24 g, 4.52 mmol) were converted to 1.36 g of the title compound by the procedure of Preparation 10. (100%). EA calculated for: C17H18N2O4ClF: C, 55.37; H, 4.92; N, 7.60. Found: C, 55.44; H, 5.00; N, 7.52. MS(FD) m/z 368 (M+).

reactant | Methyl-5-aminopentanoate hydrochloride | 4.14 mmol, 694 mg | Cl.COC(CCCCN)=O
reactant | 3-(2-chloro-6-fluorophenyl)-5-methylisoxazol-4-oyl chloride | 4.52 mmol, 1.24 g | ClC1=C(C(=CC=C1)F)C1=NOC(=C1C(=O)Cl)C | C11H6Cl2FNO2
product | Methyl-N-(3-[2-Chloro-6-Fluorophenyl]-5-Methylisoxazol-4-oyl)-5-Aminopentanoate | 1.36 g | COC(CCCCNC(=O)C=1C(=NOC1C)C1=C(C=CC=C1F)Cl)=O | C17H18ClFN2O4
